US05684004
(E and Z)-1-[4-(6-Diethylaminohexoxy)phenyl]-1,2-diphenyl-ethylene
Combine (E and Z)-1-[(4-hydroxy))phenyl]-1,2-diphenyl-ethylene (3.05 g, 11.2 mmol), 6-diethylaminohexanol (2.0 g, 11.5 mmol), and triphenylphosphine (3.73 g, 14.2 mmol) in THF (25 mL). Add dropwise diethyl azodicarboxylate (2.24 mL, 14.2 mmol). Stir for 24 hours. Concentrate in vacuo. Chromatograph on silica gel eluting with 7% methanol/dichloromethane. Concentration of the product containing fractions to give the title compound.

reactant | 1,2-diphenyl-ethylene | 11.2 mmol, 3.05 g | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
reactant | 6-diethylaminohexanol | 11.5 mmol, 2.0 g | C(C)N(CCCCCCO)CC | C10H23NO
reactant | triphenylphosphine | 14.2 mmol, 3.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 14.2 mmol, 2.24 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-[4-(6-Diethylaminohexoxy)phenyl]-1,2-diphenyl-ethylene | C(C)N(CCCCCCOC1=CC=C(C=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1)CC | C30H37NO
